US04115407
A. N-(m-Nitrobenzylidene)-4-chromanamine
An 80 g, (0.54 mole) portion of 4-chromanamine, and 650 ml of ethanol were placed in a 2-l, 3-necked flask, equipped with a stirrer and reflux condenser fitted with a drying tube. The slurry was treated with 85 g (0.56 mole) portion of m-nitrobenzaldehyde using rapid mechanical stirring. The reaction mixture was refluxed for 5 hrs., cooled 1 hr. and filtered. The yellow crystalline solid was washed with 100 ml of ethanol, ether, and dried, m.p. 117°-118°. Yield: 115 g (76%).

reactant | 4-chromanamine | O1CCC(C2=CC=CC=C12)N | C9H11NO
reactant | m-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | ethanol | 650 ml | C(C)O | C2H6O
product | N-(m-Nitrobenzylidene)-4-chromanamine | [N+](=O)([O-])C=1C=C(C=NC2CCOC3=CC=CC=C23)C=CC1 | C16H14N2O3
